US05366988
Synthesis of 1-[3-(3,3-dimethylbutoxy)benzohydroximoyl]-1H-1,2,4-triazole
To 100 ml of 1,2-dimethoxyethane were added 2.0 g (7.8 mmol) of 3-(3,3-dimethylbutoxy)benzohydroximoyl chloride, 1.9 g (27.5 mmol) of 1,2,4-triazole, and 1.5 g (10.9 mmol) of potassium carbonate. The mixture was stirred for 8 hours at about 50° C. After the resultant mixture was allowed to sit and cool naturally, the solvent in the mixture was removed. The residue was purified by column chromatography, thus obtaining the desired product of 1.2 g (yield: 46% ) .

reactant | 3-(3,3-dimethylbutoxy)benzohydroximoyl chloride | 7.8 mmol, 2.0 g | CC(CCOC=1C=C(C(=NO)Cl)C=CC1)(C)C | C13H18ClNO2
reactant | 1,2,4-triazole | 27.5 mmol, 1.9 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 10.9 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 1-[3-(3,3-dimethylbutoxy)benzohydroximoyl]-1H-1,2,4-triazole | yield: 46% | CC(CCOC=1C=C(C(=NO)N2N=CN=C2)C=CC1)(C)C | C15H20N4O2
